US04485112
1(benzofuran-2-yl)-1-(p-chlorophenyl)ethanol
14.2 g of methyl iodide in 50 ml of tetrahydrofuran are dripped slowly onto 2.43 g of magnesium chips in about 30 ml of tetrahydrofuran. When all the magnesium has dissolved, 25.6 g of 2(p-chloro-benzoyl)benzofuran dissolved in 350 ml of tetrahydrofuran are added slowly. After the addition, the mixture is kept under reflux for 2 hours. It is cooled, poured into 500 g of crushed ice and 10 ml of concentrated HCl, then extracted with ethyl ether. The organic phase is washed with water, dried with anhydrous sodium sulphate, and evaporated to dryness, to leave a residue which crystallises from petroleum ether: M.P. 64°-66° C.

reactant | methyl iodide | 14.2 g | CI | CH3I
reactant | magnesium | 2.43 g | [Mg] | Mg
reactant | 2(p-chloro-benzoyl)benzofuran | 25.6 g | ClC1=CC=C(C(=O)C=2OC3=C(C2)C=CC=C3)C=C1 | C15H9ClO2
reactant | HCl | 10 ml | Cl | ClH
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | about 30 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 350 ml | O1CCCC1 | C4H8O
product | 1(benzofuran-2-yl)-1-(p-chlorophenyl)ethanol | O1C(=CC2=C1C=CC=C2)C(C)(O)C2=CC=C(C=C2)Cl | C16H13ClO2
